US20010047099A1
B. Methyl 4-amino-6-trifluoromethylpyridine-2-carboxylate
To a solution of methyl 4-chloro-6-trifluoromethylpyridine-2-carboxylate (2.44 g, 10.2 mmol) in aqueous DMF was added NaN3 (0.7 g, 10.8 mmol). The resulting mixture was heated at 70° C. for 18 hr, added to H2O and extracted (3×) with Et2O. The organic layer was concentrated to yield a white solid that was dissolved in 10 mL of MeOH. Excess NaBH4 was added and the reaction mixture stirred at RT for 0.5 hr. This material was added to H2O, extracted (3×) with Et2O. The extract was dried over MgSO4 and concentrated. The resulting residue was purified via flash column chromatography to give 0.95 of product as a white solid; mp 114° C.

reactant | methyl 4-chloro-6-trifluoromethylpyridine-2-carboxylate | 10.2 mmol, 2.44 g | ClC1=CC(=NC(=C1)C(F)(F)F)C(=O)OC | C8H5ClF3NO2
reactant | NaN3 | 10.8 mmol, 0.7 g | [N-]=[N+]=[N-].[Na+]
reactant | H2O | O | H2O
reactant | NaBH4 | [BH4-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | 10 mL | CO | CH4O
product | Methyl 4-amino-6-trifluoromethylpyridine-2-carboxylate | NC1=CC(=NC(=C1)C(F)(F)F)C(=O)OC | C8H7F3N2O2
